US07923450B2
c) [4-(2,4-Dimethyl-thiazol-5-yl)-3-methoxy-phenyl]-thiourea
To a solution of 4-(2,4-dimethyl-thiazol-5-yl)-3-methoxy-phenylamine (100 mg, 0.43 mmol) in tetrahydrofurane (4 mL) was added drop wise under stirring and under an atmosphere benzoyl isothiocyanate (63.6 ul, 0.45 mmol). The reaction was stirred at room temperature for 3 hours and the solvent was removed under reduced pressure. The residue was dissolved in methanol (6 mL) and a solution of potassium carbonate (177 mg, 1.28 mmol) in water (3 mL) was added. The resulting suspension was stirred at room temperature over night. The precipitate was filtered off, washed with water and diethyl ether to yield the title compound as a pale yellow solid (90 mg, 72%). MS ISP (m/e): 294.1 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=9.81 (s, 1H, NH), 7.35 (s, 1H), 7.21 (d, 1H), 7.01 (s, 1H), 3.76 (s, 3H), 2.59 (s, 3H), 2.20 (s, 3H).

reactant | 4-(2,4-dimethyl-thiazol-5-yl)-3-methoxy-phenylamine | 0.43 mmol, 100 mg | CC=1SC(=C(N1)C)C1=C(C=C(C=C1)N)OC | C12H14N2OS
reactant | benzoyl isothiocyanate | 0.45 mmol, 63.6 ul | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | potassium carbonate | 1.28 mmol, 177 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofurane | 4 mL | O1CCCC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | [4-(2,4-Dimethyl-thiazol-5-yl)-3-methoxy-phenyl]-thiourea | 90 mg, 72% | CC=1SC(=C(N1)C)C1=C(C=C(C=C1)NC(=S)N)OC | C13H15N3OS2
